US04496560
A solution of 7-amino-2-carboxy-8-oxo-3-(2-phenylthiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (3.3 g) in a mixture of distilled water (35 cc) and acetone (24 cc) containing sodium bicarbonate (2 g) is cooled to -10° C. and then treated with a solution of (thien-2-yl)-acetyl chloride (0.86 cc) in acetone (10 cc), which is added dropwise in 8 minutes. The reaction mixture is stirred for 30 minutes at -10° C. and then for 3 hours at 20° C. The acetone is evaporated under reduced pressure (30 mm Hg; 4 kPa) at 30° C. and ethyl acetate (150 cc) and a saturated sodium bicarbonate solution (100 cc) are added. The aqueous layer is extracted with ethyl acetate (100 cc), then treated with decolorising charcoal (1 g) and a filtration aid (diatomaceous earth powder) (5 g), and filtered on the filtration aid, rinsing with distilled water (2×50 cc). The combined filtrates are acidified to pH 2 with 4N hydrochloric acid. The precipitate is filtered off, washed with ethyl acetate (50 cc) and then triturated with isopropyl ether (100 cc) and dried. 2-Carboxy-8-oxo-3-(2-phenyl-thiazol-5-yl)-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene (0.8 g) is obtained in the form of a cream-coloured solid.

reactant | 7-amino-2-carboxy-8-oxo-3-(2-phenylthiazol-5-yl)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 3.3 g | NC1C2SCC(=C(N2C1=O)C(=O)O)C1=CN=C(S1)C1=CC=CC=C1 | C16H13N3O3S2
reactant | water | 35 cc | O | H2O
reactant | sodium bicarbonate | 2 g | C([O-])(O)=O.[Na+]
reactant | (thien-2-yl)-acetyl chloride | 0.86 cc | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | acetone | 10 cc | CC(=O)C | C3H6O
solvent | acetone | 24 cc | CC(=O)C | C3H6O
product | 2-Carboxy-8-oxo-3-(2-phenyl-thiazol-5-yl)-7-(thien-2-yl-acetamido)-5-thia-1-azabicyclo[4.2.0]oct-2-ene | 0.8 g | C(=O)(O)C=1N2C(C(C2SCC1C1=CN=C(S1)C1=CC=CC=C1)NC(CC=1SC=CC1)=O)=O | C22H17N3O4S3
